US05141955
2-Benzylselenobenzanilide
A suspension of 6 g (0.0206 mol) 2-benzylselenobenzoic acid in 60 ml dichloromethane is treated at -10° C. with 2.64 g (0.0206 mol) chloromethylenedimethyliminium chloride (Vilsmeier's reagent). After stirring for 30 minutes at 0° C. the clear reaction mixture is treated dropwise within 15 min with a solution of 1.9 g (0.04 mol) aniline and 4.21 g (0.0416 mol) triethylamine in 60 ml dichloromethane. After stirring for 48 h at room temperature the clear yellow solution is extracted with 1N HCl (100 ml) followed by water until it is neutral, the organic phase is dried over Na2SO4 and then evaporated to dryness in vacuum. The solid crude product is recrystallized from 2-propanol (220 ml).

reactant | 2-benzylselenobenzoic acid | 0.0206 mol, 6 g | C(C1=CC=CC=C1)C1=C(C(=[Se])O)C=CC=C1 | C14H12OSe
reactant | aniline | 0.04 mol, 1.9 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 0.0416 mol, 4.21 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-Benzylselenobenzanilide | C(C1=CC=CC=C1)C1=C(C(=[Se])NC2=CC=CC=C2)C=CC=C1 | C20H17NSe
